Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ right-handed man with a history
of prior strokes, hypertension, hyperlipidemia presents as a
transfer from an outside hospital with a hyperdensity in his 
left
cerebellum concerning for hemorrhage.

The patient is a poor historian.  He reports that 8 days ago,
around 9:00, he noticed the onset of acute left sided numbness
involving his face arm and leg.  He had some dizziness at this
time which was not described as a room spinning, vertigo
vertiginous sensation.  He decided to go to bed and woke up the
next morning feeling much more improved.  He subsequently came
over to the ___ from ___ 5 days ago, at which point
his daughter noticed a possible right facial droop.  Over the
last several days since coming back to the ___, he
described having some worsening left-sided pain in his arm and
his chest.  This prompted the ED visit.  At the outside 
hospital,
noncontrast head CT showed a small focus of hyperdensity in the
left cerebellum.  He was subsequently transferred to ___ for
further evaluation.  He reports that currently, the only thing
that is bothering him is the left-sided arm and leg pain.  This
is pretty constant, described as a sharp pain.  Otherwise, 
denies
focal weakness, double vision, other visual changes.

Of note, he reports having a stroke in ___ when he presented
with acute onset right-sided hemiparesis.  Since then, his
weakness has essentially resolved.  No other strokelike symptoms
since this time.
 
 
Past Medical History:
Hypertension, hyperlipidemia, stroke
 
 
Social History:
___
Family History:
Family Hx: Noncontributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
Vitals: T 98.3  P 52  BP 156/79  RR 14  O2 100% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: Subtle right lower facial asymmetry, but activates
symmetrically
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5      5   
R  5    ___   ___    5    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation.  Normal basis.  Normal stride and arm
swing.  Negative Romberg

Discharge exam: 

Exam is notable for a subtle facial asymmetry with deeper NLF on 
the left, coactivation on the left, but both sides show good 
movements and symmetric activation of unknown chronicity. 
Otherwise no clear motor or sensory deficits and unchanged from 
admission.
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 03:55AM   %HbA1c-5.3 eAG-105
___ 11:45PM   GLUCOSE-90 UREA N-23* CREAT-1.3* SODIUM-143 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-27 ANION GAP-11
___ 11:45PM   estGFR-Using this
___ 11:45PM   ALT(SGPT)-8 AST(SGOT)-16 ALK PHOS-65 TOT 
BILI-0.3
___ 11:45PM   LIPASE-25
___ 11:45PM   cTropnT-<0.01
___ 11:45PM   ALBUMIN-3.7 CALCIUM-8.7 PHOSPHATE-2.8 
MAGNESIUM-1.8 CHOLEST-106
___ 11:45PM   TRIGLYCER-57 HDL CHOL-40* CHOL/HDL-2.7 
LDL(CALC)-55
___ 11:45PM   TSH-2.8
___ 11:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:45PM URINE  HOURS-RANDOM
___ 11:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:45PM   WBC-9.8 RBC-3.85* HGB-11.3* HCT-32.4* MCV-84 
MCH-29.4 MCHC-34.9 RDW-14.1 RDWSD-43.4
___ 11:45PM   NEUTS-50.4 ___ MONOS-7.3 EOS-13.7* 
BASOS-0.7 IM ___ AbsNeut-4.92 AbsLymp-2.69 AbsMono-0.71 
AbsEos-1.34* AbsBaso-0.07
___ 11:45PM   PLT COUNT-203
___ 11:45PM   ___ PTT-31.3 ___
___ 11:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

IMAGING: 
========
Per my read, noncontrast head CT reveals punctate hypodensities
within the left internal capsule.  In the left cerebellar
hemisphere, there is an area of punctate, irregular nonspherical
hyperdense area with a Hounsfield unit of 55-60 without
surrounding edema.  There is an additional focus of hypodensity
in the lower left cerebellar hemisphere.

MRI of the brain in ___ per my read reveals 2
microhemorrhages in the left cerebellar hemisphere possibly
corresponding to the area as described on CT especially the one
closer to midline.  This scan also revealed an acute infarct in
the left posterior and internal capsule with an ADC correlate
suggestive of a lacunar infarct
 
Brief Hospital Course:
Mr. ___ is an ___ right-handed man with a history of 
prior LT basal ganglia and internal capsule ischemic stroke, 
hypertension, and ___ transferred from an outside 
hospital after he presented with lightheadedness and an episode 
of LT sided numbness 10 days prior to presentation. ___ w/ 
hyperdensity in the left cerebellum concerning for 
microhemorrhage vs calcification. However, on further review of 
his ___ performed at ___ on ___, this left 
cerebellar hyperdensity was present as well. Initial exam 
notable for facial asymmetry with symmetric activation of 
unknown chronicity. However, on subsequent exam and further 
discussion he was deemed to have a chronic facial asymmetry 
given the deepening of the nasolabial folds and co-activation 
when smiling on command. Stroke risk factors assessed with A1C 
of 5.3% and LDL of 55. At this time his deficits appear chronic 
and the episode of dizziness (now resolved) is less likely 
vascular in origin. We will discharge home with PCP follow up. 

Transitional Issues:

# Continue all your home medications 
# Please follow with your PCP within one week 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin EC 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient dizziness
Hypertension 
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of transient dizziness and 
one episode of left sided numbness 8 days ago concerning for an 
acute stroke. You had a non contrast head CT at ___, which 
showed findings concerning for a possible microscopic bleed or 
calcification. However, when we reviewed your imaging this 
finding was also present on your CT from ___ and your 
symptoms are not related to this. We examined you and noted that 
you have an old facial asymmetry. At this point we do not think 
you had a new stroke or bleed. We have checked your stroke risk 
factors with a blood sugar test and cholesterol test which were 
normal. At this point we recommend you continue all your 
medications as directed below. Please follow up with Neurology 
and your primary care physician as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
 
Your ___ Neurology Team  

 
Followup Instructions:
___